US05455273
c) trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-chlorobenzoyl)-N-propargylcyclohexylamine
from trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-propargylcyclohexylamine and 4-chlorobenzoylchloride. Colourless oil. Rf value: 0.46 (silica gel, petroleum ether/ethyl acetate=2:1, v:v).

reactant | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-propargylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)NCC#C)CNC | C22H32N2O2
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-4-(4-tert.butoxycarbonyl-methylaminomethylphenyl)-N-(4-chlorobenzoyl)-N-propargylcyclohexylamine | C(C)(C)(C)OC(=O)C1=CC(=C(C=C1)[C@@H]1CC[C@H](CC1)N(CC#C)C(C1=CC=C(C=C1)Cl)=O)CNC | C29H35ClN2O3
